US04053470
y. 6-[m-(Propylamino)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride.
6-[m-(Propylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid (1.0 g.) is added to 10 ml. thionyl chloride containing 10 drops of dimethylformamide. Solution soon occurs and after a half hour a new solid appears. The mixture is diluted with methylene chloride and the 6-[m-(propylamino)phenyl]-1,2-dihydro-2-oxonicotinyl chloride hydrochloride collected and washed with methylene chloride.

reactant | 6-[m-(Propylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 1.0 g | C(CC)NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C15H16N2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | thionyl chloride | 10 drops | S(=O)(Cl)Cl | Cl2OS
product | 6-[m-(Propylamino)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.C(CC)NC=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O | InChI=1S/C15H17ClN2O.ClH/c1-2-8-17-13-5-3-4-11(9-13)14-7-6-12(10-16)15(19)18-14;/h3-7,9,17H,2,8,10H2,1H3,(H,18,19);1H
